US06150373
A solution of 100 mg (0.22 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-1-phenyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 200 mg (2.12 mmol) of 4-aminopyridine in 2 ml of dichloromethane was stirred at room temperature overnight. The mixture was evaporated and the residue was purified by flash column chromatography on silica gel using 10% methanol/dichloromethane for the elution. Product containing fractions were combined and evaporated to give 16 mg (15%) of 3-(2,6-dichlorophenyl)-3,4-dihydro-1-phenyl-7-[(4-pyridyl)amino]pyrimido[4,5-d]pyrimidin-2(1H)-one as an off-white solid which decomposed at 289° C.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-1-phenyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.22 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC=CC=C1)=O | C19H14Cl2N4O3S
reactant | 4-aminopyridine | 2.12 mmol, 200 mg | NC1=CC=NC=C1 | C5H6N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-(2,6-dichlorophenyl)-3,4-dihydro-1-phenyl-7-[(4-pyridyl)amino]pyrimido[4,5-d]pyrimidin-2(1H)-one | 16 mg, 15% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=NC=C1)C1=CC=CC=C1)=O | C23H16Cl2N6O
